US06387919B1
To a solution of 3.3 g (31 mmol) of 2-(2-aminoethoxy)ethanol in 30 mL of MeOH was added 7.0 g (30 mmol) of N-acetylsulfanilyl chloride, followed by 3.3 g (33 mmol) of TEA. The reaction mixture was stirred for 30 min at rt and then acidified with 5 mL (60 mmol) of concentrated HCl and stirred at reflux for 75 min. After cooling, the mixture was diluted with 40 mL of water and made basic with solid NaHCO3. MeOH was removed on a rotary evaporator, and the residual aqueous solution was extracted with four 50-mL portions of EtOAc. The combined extracts were dried over Na2CO3, and the solvent was removed on a rotary evaporator to give 4-amino-N-(2-(2-hydroxyethoxy)ethyl)-benzenesulfonamide as a viscous oil (7.5 g, 96%): 1H NMR (DMSO-d6): δ 2.77 (q, J=6.0 Hz, 2H), 3.30 (t, J=4.9 Hz, 2H), 3.31 (t, J=6.5 Hz, 2H), 3.41 (q, J=5.2 Hz, 2H), 4.54 (t, J=5.5 Hz, 1H), 5.89 (s, 2H), 6.57 (d, J=8.7 Hz, 2H) 7.10 (t, J=7.37 (d, J=8.6 Hz, 2H); ESI−MS m/s 259 (M−H)−. To a solution of 0.63 g (2.4 mmol) of 4-amino-N-(2-(2-hydroxyethoxy)ethyl)-benzenesulfonamide in 10 mL of THF was added 0.10 g (2.5 mmol) of 60% sodium hydride. The mixture was stirred for 1 h at rt, 1 mL of DMSO and ˜0.2 mL (˜3 mmol) of methyl iodide were added to the resulting suspension. The reaction mixture was stirred 2 h at rt and then poured into 15 mL of half saturated NaCl solution and extracted with 30 mL of EtOAc. The organic solution was dried with MgSO4 and concentrated on a rotary evaporator. The residue was chromatographed on silica gel with EtOAc to give 4-amino-N-(2-(2-hydroxyethoxy)ethyl)N-methyl-benzenesulfonamide as an oil (0.43 g, 65%): 1H NMR (DMSO-d6): δ 2.59 (s, 3H), 2.96 (t, J=5.9 Hz, 2H), 3.36 (t, J=5.2 Hz, 2H), 3.43 (t, J=5.2 Hz, 2H), 3.47 (t, J=5.9 Hz, 2H), 4.55 (t, J=5.4 Hz, 1H), 5.99 (s, 2H), 6.59 (d, J=8.7 Hz, 2H), 7.34 (d, 8.8 Hz, 2H); APCI−MS m/z 297 (M+Na)+. The title compound was prepared from 4-amino-N-(2-(2-hydroxyethoxy)ethyl)-N-methyl-benzenesulfonamide and 8ethoxymethylene-6,8-dihydro-I-thia-3,6-diaza-as-indacen-7-one according to Procedure J: mp 165° C.; 1H NMR (DMSO-d6): δ 2.71 (s, 3H), 3.11 (t, J=5.6 Hz, 2H), 3.37 (t, J=5.0 Hz, 2H), 3.44 (dt, J=5.1, 5.0 Hz, 2H), 3.52 (t, J=5.6 Hz, 2H), 4.56 (brt, J=5.2 Hz, 1H), 7.10 (d, J=8.4 Hz, 1H), 7.61 (d, J=8.7 Hz, 2H), 7.75 (d, J=8.7 Hz, 2H), 7.81 (d, J=8.5 Hz, 1H), 8.06 (d, J=12.0 Hz, 1H), 9.25 (s, 1H), 10.91 (s, 1H), 11.16 (d, J=12.0 Hz, 1H); APCI−MS m/z 474 M−. Anal. Calcd for C21H22N4O5S2.H2O: C, 51.21; H,4.91; N, 11.37. Found: C, 51.18; H, 4.88; N, 11.33.

reactant | 2-(2-aminoethoxy)ethanol | 31 mmol, 3.3 g | NCCOCCO | C4H11NO2
reactant | N-acetylsulfanilyl chloride | 30 mmol, 7.0 g | C(C)(=O)NC1=CC=C(S(=O)(=O)Cl)C=C1 | C8H8ClNO3S
reactant | HCl | 60 mmol, 5 mL | Cl | ClH
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | MeOH | 30 mL | CO | CH4O
solvent | water | 40 mL | O | H2O
product | 4-amino-N-(2-(2-hydroxyethoxy)ethyl)-benzenesulfonamide | 7.5 g, 96% | NC1=CC=C(C=C1)S(=O)(=O)NCCOCCO | C10H16N2O4S
